US05622971
Methyl 2-(4-hexenoyl)-4-nitro-3-(1,3-benzodioxole-5-yl)butyrate
A solution of methyl 3-oxo-6-octenoate (502 mg, 2.95 mmol) in 10 mL of isopropanol was added to a solution of 5-(2-nitrovinyl)-1,3-benzodioxole (712 mg, 3.69 mmol) in 10 mL THF, then DBU (22 μL, 0.15 mmol) was added. The resulting reddish solution was stirred at room temperature for 20 minutes. TLC (ethyl acetate-hexane, 1:3) indicated complete consumption of ketoester. The solution was concentrated in vacuo and flash chromatographed on silica gel eluting with 18% ethyl acetate in hexane to produce 879 mg (2.42 mmol, 82%) of the title compound as a mixture of diastereomers in a 1:1 ratio. 1H NMR (CDCl3, 300 MHz) δ 1.55-1.66 (m, 3H), 2.02-2.17 (br m, 1H), 2.20-2.37 (m, 1.5H), 2.49-2.76 (m, 1.5H), 3.57 (s, 1.5H), 3.74 (s, 1.5H), 3.97 (d, J=7.5H, 0.5H) and 4.05 (d, J=8 Hz, 0.5H), 4.10-4.20 (m, 1H), 4.68-4.82 (m, 2H), 5.06-5.52 (m, 2H), 5.95 (2s, 2H), 6.65 (m, 1H), 6.68 (br s, 1H), 6.75 (d, 7.5 Hz, 1H). MS (DCI/NH3) m/e 381 (M+NH4)+.

reactant | methyl 3-oxo-6-octenoate | 2.95 mmol, 502 mg | O=C(CC(=O)OC)CCC=CC | C9H14O3
reactant | 5-(2-nitrovinyl)-1,3-benzodioxole | 3.69 mmol, 712 mg | [N+](=O)([O-])C=CC1=CC2=C(OCO2)C=C1 | C9H7NO4
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | isopropanol | 10 mL | C(C)(C)O | C3H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | DBU | 0.15 mmol, 22 μL | C1CCC2=NCCCN2CC1 | C9H16N2
product | Methyl 2-(4-hexenoyl)-4-nitro-3-(1,3-benzodioxole-5-yl)butyrate | 2.42 mmol, 879 mg, 82% | C(CCC=CC)(=O)C(C(=O)OC)C(C[N+](=O)[O-])C1=CC2=C(OCO2)C=C1 | C18H21NO7
